US05328911
2-Methoxy-7-methyl-3[(2'-(1H-tetrazol-5-yl)biphenyl-4-yl)methyl]-3H-imidazo[ 4.5-b]pyridine
420 mg (2.2 mmol) of 28% methanol solution of sodium methoxide was added to 10 ml of a methanol solution of 0.44 g (0.96 mmol) of 2-ethylsulfonyl-7-methyl-3[(2'-(1H-tetrazol-5-yl)biphenyl-4-yl)methyl] 3H-imidazo[4.5-b]-pyridine was dispersed in 150 ml of dichloromethane. The mixture was refluxed for 40 minutes. The solvent was distilled out at a reduced pressure. The residue was mixed with water and neutralized with 2N HCl. An extract with dichloromethane was washed with a saturated saline and dried with anhydrous magnesium sulfate. The solvent was distilled out at a reduced pressure. The residue was treated with ethanol and ether for recrystallization to obtain 300 mg of the above named compound.

reactant | methanol | 2.2 mmol, 420 mg | CO | CH4O
reactant | sodium methoxide | C[O-].[Na+]
reactant | methanol | 10 ml | CO | CH4O
reactant | 2-ethylsulfonyl-7-methyl-3[(2'-(1H-tetrazol-5-yl)biphenyl-4-yl)methyl] 3H-imidazo[4.5-b]-pyridine | 0.96 mmol, 0.44 g | C(C)S(=O)(=O)C1=NC=2C(=NC=CC2C)N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1 | C23H21N7O2S
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 2-Methoxy-7-methyl-3[(2'-(1H-tetrazol-5-yl)biphenyl-4-yl)methyl]-3H-imidazo[ 4.5-b]pyridine | COC1=NC=2C(=NC=CC2C)N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1 | C22H19N7O
